US06794397B2
N-(4-methoxy-2-nitrophenyl)-4-pyridinecarboxamide
The title compound was prepared from isonicotinoyl chloride and 4-methoxy-2-nitroaniline and was obtained as an orange yellow solid as described in Example 1. 1H NMR (CDCl3): 10.79 (s, 1H), 8.83-8.81 (m, 2H), 7.85-7.83 (m, 2H), 7.61-7.55 (m, 2H), 7.40-7.36 (m, 1H), 3.87 (s, 3H).

reactant | isonicotinoyl chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | N-(4-methoxy-2-nitrophenyl)-4-pyridinecarboxamide | COC1=CC(=C(C=C1)NC(=O)C1=CC=NC=C1)[N+](=O)[O-] | C13H11N3O4
